US05639770
0.81 g of 2-(3,4-diethoxyphenyl)-4-[6-(1-imino-1-methylthiomethyl)-2-pyridyl]thiazole monomethylsulfate and a saturated ammonia-methanol solution were refluxed at 100° C. for 3 hours in a sealed tube. The solvent was removed by distillation. The residue was recrystallized from chloroform-diethyl ether to obtain 0.44 g of 2-(3,4-diethoxyphenyl)-4-(6-amidino-2-pyridyl)thiazole monomethylsulfate.

reactant | 2-(3,4-diethoxyphenyl)-4-[6-(1-imino-1-methylthiomethyl)-2-pyridyl]thiazole monomethylsulfate | 0.81 g | COS(=O)(=O)O.C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C(SC)=N
reactant | ammonia methanol | N.CO
product | 2-(3,4-diethoxyphenyl)-4-(6-amidino-2-pyridyl)thiazole monomethylsulfate | 0.44 g | COS(=O)(=O)O.C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C(N)=N | InChI=1S/C19H20N4O2S.CH4O4S/c1-3-24-16-9-8-12(10-17(16)25-4-2)19-23-15(11-26-19)13-6-5-7-14(22-13)18(20)21;1-5-6(2,3)4/h5-11H,3-4H2,1-2H3,(H3,20,21);1H3,(H,2,3,4)
